US05883255
12C. (±)-8-Methyl-7-[1-[[(dimethylamino)acetyl]oxy]propyl]indolizino[1,2-b]quinolin-9(11H)-one Hydrochloride
A stream of dimethylamine was introduced into a solution containing (±)-7-[1-[(iodoacetyl)oxy]propyl]-8-methylindolizino[1,2-b]quinolin-9(11H)-one (50 mg, 0.11 mmol) in anhydrous CH2Cl2 (15 mL). The resulting solution was allowed to stir for 2 h and then was concentrated under reduced pressure. The residue was partitioned between CH2Cl2 and H2O, and the organic layer was washed several times with H2O and dried over sodium sulfate. Into this solution was bubbled a stream of HCl gas, and the resulting cloudy mixture was stirred for 15 min and then was concentrated in vacuo. The residue was dissolved in H2O and lyophilized to afford the title compound as an orange solid. 1H NMR (DMSO-d6) d 8.68 (s, 1H), 8.15 and 8.12 (two overlapping d, 2H), 7.86 (m, 1H), 7.71 (m, 1H), 7.17 (s, 1H), 5.96 (apparent br t, 1H), 5.26 (s, 2H), 4.41 (s, 2H), 2.84 (br s, 6H), 2.26 (s, 3H), 2.20-1.86 (m, 2H), 0.96 (t, J=7.3 Hz, 3H). CIMS (NH3, m/e, rel. int.) 392 (100) [(M+H)+ ]. Anal. Calcd for C23H25N3O3.2HCl.13/8H2O: C, 55.96; H, 6.18; N, 8.51. Found: C, 56.27; H, 6.03; N, 8.04.

reactant | dimethylamine | CNC | C2H7N
reactant | (±)-7-[1-[(iodoacetyl)oxy]propyl]-8-methylindolizino[1,2-b]quinolin-9(11H)-one | 0.11 mmol, 50 mg | ICC(=O)OC(CC)C1=C(C(N2CC=3C(=NC4=CC=CC=C4C3)C2=C1)=O)C | C21H19IN2O3
reactant | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (±)-8-Methyl-7-[1-[[(dimethylamino)acetyl]oxy]propyl]indolizino[1,2-b]quinolin-9(11H)-one Hydrochloride | Cl.CC=1C(N2CC=3C(=NC4=CC=CC=C4C3)C2=CC1C(CC)OC(CN(C)C)=O)=O | InChI=1S/C23H25N3O3.ClH/c1-5-20(29-21(27)13-25(3)4)17-11-19-22-16(12-26(19)23(28)14(17)2)10-15-8-6-7-9-18(15)24-22;/h6-11,20H,5,12-13H2,1-4H3;1H
